US05223529
A suspension of cyclopropyl 2-anilinoacetate (2.9 g) and 2-[3-(3-methylphenyl)ureido]acetic acid in anhydrous 1,2-dichloroethane (50 cc) is heated to reflux. Thionyl chloride (1.0 cc) is then added, refluxing being maintained until the gaseous evolution has ceased. The reaction mixture is then poured into saturated aqueous sodium hydrogen carbonate solution (30 cc) and thereafter methylene chloride (50 cc) is added. The organic phase is washed with distilled water (50 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in acetonitrile, cyclopropylmethyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate (1.6 g), m.p. 158° C., is obtained.

reactant | cyclopropyl 2-anilinoacetate | 2.9 g | N(C1=CC=CC=C1)CC(=O)OC1CC1 | C11H13NO2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | Thionyl chloride | 1.0 cc | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | 30 cc | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 50 cc | ClCCCl | C2H4Cl2
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
product | cyclopropylmethyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 1.6 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)OCC1CC1)=O | C22H25N3O4
